US07618975B2
(2-Chloro-quinazolin-4-yl)-(2,5-dimethoxy-phenyl)-amine
The title compound was prepared from 2,4-dichloroquinazoline and 2,5-dimethoxyaniline by a procedure similar to example 28 (98% yield). 1H NMR (CDCl3): 8.59 (d, J=3.0 Hz, 1H), 8.53 (s, broad, 1H), 7.78-7.87 (m, 3H), 7.57 (ddd, J=8.4, 6.6 and 1.8 Hz, 1H), 6.88 (d, J=9.0 Hz, 1H), 6.60 (dd, J=8.7 and 3.0 Hz, 1H), 3.97 (s, 3H), 3.87 (s, 3H).

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 2,5-dimethoxyaniline | COC1=C(N)C=C(C=C1)OC | C8H11NO2
product | (2-Chloro-quinazolin-4-yl)-(2,5-dimethoxy-phenyl)-amine | ClC1=NC2=CC=CC=C2C(=N1)NC1=C(C=CC(=C1)OC)OC | C16H14ClN3O2
